US05958918
A. 7-Methoxy-2-napthalenesulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl](pyridin-3-yl-methyl)amide
The title compound is prepared as described in EXAMPLE 90, Part A using 7-methoxynaphthalene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl]amide, prepared as described in EXAMPLE 43, part A, and pyridin-3-yl-methyl bromide. The crude product is purified by column chromatography eluting with 5% MeOH/CH2Cl2 to afford the title compound as a white foam.

reactant | 7-methoxynaphthalene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl]amide | C(#N)C=1C=C(CN2C([C@H](CC2)NS(=O)(=O)C2=CC3=CC(=CC=C3C=C2)OC)=O)C=CC1 | C23H21N3O4S
reactant | pyridin-3-yl-methyl bromide | N1=CC(=CC=C1)CBr | C6H6BrN
product | 7-Methoxy-2-napthalenesulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl](pyridin-3-yl-methyl)amide | C(#N)C=1C=C(CN2C([C@H](CC2)N(S(=O)(=O)C2=CC3=CC(=CC=C3C=C2)OC)CC=2C=NC=CC2)=O)C=CC1 | C29H26N4O4S
